US07759366B2
1) 2-(Trifluoromethyl)pyridine N-oxide 65.3
5.1 g (35 mmol) of trifluoromethylpyridine were dissolved at room temperature in 100 ml of dry dichloromethane, admixed with 17.3 g of m-chloroperbenzoic acid and stirred at room temperature for 72 h. Thereafter, the mixture was admixed with 1 N sodium hydroxide solution and extracted four times with dichloromethane; the combined organic phases were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was taken up in water, stirred and filtered, and the filtrate was concentrated under reduced pressure. 65.3 was obtained in 47% yield. 1H NMR: 8.46, d, 1H, 7.96, d, 1H, 7.7, m, 1H, 7.5, m, 1H.

reactant | trifluoromethylpyridine | 35 mmol, 5.1 g | FC(F)(F)C1=NC=CC=C1 | C6H4F3N
reactant | m-chloroperbenzoic acid | 17.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(Trifluoromethyl)pyridine N-oxide | 47% yield | FC(C1=[N+](C=CC=C1)[O-])(F)F | C6H4F3NO
